US04790869
5 ml of acetic acid, 6 ml of 85% phosphoric acid, and 3 ml of concentrated hydrochloric acid was added to 2.1 g of 4-amino-3-methyl-5-(2,2,2-trifluoroethoxy)isothiazole prepared in the above step (2). 2 ml of aqueous solution containing 0.77 g of sodium nitrite was added dropwise to the above mixture at -20° to -10° C. The resulted solution was stirred at -5° C. for 30 minutes and was gradually added dropwise at -10° to -5° C. into 30 ml of an acetic acid solution, which had been saturated with sulfur dioxide and had contained 0.3 g of cuprous chloride. After the completion of dropping, the resulted solution was stirred and reacted at 0° to 5° C. for an hour. After the completion of the reaction, the reaction mixture was poured into ice-cold water, and was extracted with dichloromethane, and the extracted layer was sufficiently washed with water and dried. The solvent was subjected to distillation under reduced pressure to give 1.2 g of oily 3-methyl-5-(2,2,2-trifluoroethoxy)-4-isothiazolesulfonyl chloride.

reactant | phosphoric acid | 6 ml | P(O)(O)(O)=O | H3O4P
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | 4-amino-3-methyl-5-(2,2,2-trifluoroethoxy)isothiazole | 2.1 g | NC=1C(=NSC1OCC(F)(F)F)C | C6H7F3N2OS
reactant | sodium nitrite | 0.77 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-methyl-5-(2,2,2-trifluoroethoxy)-4-isothiazolesulfonyl chloride | 1.2 g | CC1=NSC(=C1S(=O)(=O)Cl)OCC(F)(F)F | C6H5ClF3NO3S2
